### PR TITLE
extract a last few lemmas from the sampling branch

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

- this PR also moves from unstable.v to mathcomp_extra.v lemmas that have been merged into mathcomp or finmap

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/classical_sets.v [hunk 1]
```diff
@@ -1510,6 +1510,10 @@ Proof. by move=> AB _ [a Aa <-]; exists a => //; apply/AB. Qed.
 
 Lemma preimage_set0 f : f @^-1` set0 = set0. Proof. exact/predeqP. Qed.
 
+Lemma preimage_set1 {U : eqType} (X : aT -> U) (u : U) :
```
Comment (t6s) [inline classical/classical_sets.v]: This does not look very useful since ``X @^-1` [set u]`` is convertible to ``[set i | X i = u]``.
Can we avoid using this in the sampling PR?

File: classical/functions.v [hunk 2]
```diff
@@ -2671,6 +2676,10 @@ Lemma sumrfctE (T : Type) (K : nmodType) (s : seq (T -> K)) :
   \sum_(f <- s) f = (fun x => \sum_(f <- s) f x).
 Proof. by apply/funext => x; elim/big_ind2 : _ => // _ a _ b <- <-. Qed.
 
+Lemma prodrfctE (T : pointedType) (K : ringType) (s : seq (T -> K)) :
+  \prod_(f <- s) f = (fun x => \prod_(f <- s) f x).
+Proof. by apply/funext => x; elim/big_ind2 : _ => // _ a _ b <- <-. Qed.
```
Comment (t6s) [inline classical/functions.v]:
```suggestion
Proof. exact/funext/fct_prodE. Qed.
```

Comment (t6s) [reply classical/functions.v]: maybe redundant?

File: classical/classical_sets.v (hunk 1 above)
Comment (t6s) [reply classical/classical_sets.v]:
```
diff --git a/theories/sampling.v b/theories/sampling.v
index 75560016..8a0ecc19 100644
--- a/theories/sampling.v
+++ b/theories/sampling.v
@@ -74,10 +74,6 @@ Reserved Notation "\X_ n P" (at level 10, n, P at next level,
 Lemma norm_expR {R : realType} : normr \o expR = (expR : R -> R).
 Proof. by apply/funext => x /=; rewrite ger0_norm ?expR_ge0. Qed.
 
-Lemma preimage_set1 T {U : eqType} (X : T -> U) r :
-  X @^-1` [set r] = [set i | X i == r].
-Proof. by apply/seteqP; split => [x /eqP H//|x /eqP]. Qed.
-
 (* PR in progress *)
 Lemma integrable_prod_measP {d1} {T1 : measurableType d1} d2 {T2 : measurableType d2}
   {R : realType} (m1 : {sigma_finite_measure set T1 -> \bar R})
@@ -733,18 +729,18 @@ rewrite /bool_to_real/=; exists 1%R; split => // r r1/= s _.
 by rewrite (le_trans _ (ltW r1))// ler_norml lern1 (@le_trans _ _ 0%R) ?leq_b1.
 Qed.
 
-Lemma bernoulli_RV1 (X : bernoulliRV P p) : P [set i | X i == 1%R] = p%:E.
+Lemma bernoulli_RV1 (X : bernoulliRV P p) : P [set i | X i = 1%R] = p%:E.
 Proof.
 have/(congr1 (fun f => f [set 1%:R])):= @bernoulliP _ _ _ _ _ X.
 rewrite bernoulliE// diracE/= mem_set// mule1// diracE/= memNset//.
-by rewrite mule0 adde0 -preimage_set1 /distribution /= => <-.
+by rewrite mule0 adde0 /distribution /= => <-.
 Qed.
 
-Lemma bernoulli_RV2 (X : bernoulliRV P p) : P [set i | X i == 0%R] = (`1-p)%:E.
+Lemma bernoulli_RV2 (X : bernoulliRV P p) : P [set i | X i = 0%R] = (`1-p)%:E.
 Proof.
 have/(congr1 (fun f => f [set 0%:R])):= @bernoulliP _ _ _ _ _ X.
 rewrite bernoulliE// diracE/= memNset// mule0// diracE/= mem_set// add0e mule1.
-by rewrite /distribution /= => <-; rewrite -preimage_set1.
+by rewrite /distribution /= => <-.
 Qed.
 
 Lemma bernoulli_expectation (X : bernoulliRV P p) :
@@ -879,10 +875,7 @@ under eq_integral.
   over.
 rewrite integral_cst//.
 rewrite /A /B /preimage /=.
-under eq_set do rewrite (propext (rwP eqP)).
-rewrite bernoulli_RV1.
-under eq_set do rewrite (propext (rwP eqP)).
-rewrite bernoulli_RV2.
+rewrite bernoulli_RV1 bernoulli_RV2.
 rewrite -EFinD; congr (_ + _)%:E; rewrite mulrC//.
 by rewrite expR0 mulr1.
 Qed.
```

Actually it becomes simpler.

Comment (t6s) [reply classical/classical_sets.v]: I have pushed this change to the sampling PR.

**Review by hoheinzollern — APPROVED** [review]
Besides @t6s 's comments, it looks OK.

File: classical/functions.v (hunk 2 above)
Comment (t6s) [reply classical/functions.v]: I have looked into similar lemmas for sums on master: `sumrfctE` is not used at all, and `fct_sumE` can be safely generalized to the corresponding functional equality as stated in `sumrfctE` without modifying other files.

Comment (t6s) [reply classical/functions.v]: I have also observed that generalizing `fct_prodE` simplifies `sampling.v`.

Comment (affeldt-aist) [reply classical/functions.v]: Can you push your findings on `sampling.v`?

Comment (t6s) [reply classical/functions.v]: #1680 

I will also update sampling.v soon.

Comment (t6s) [reply classical/functions.v]: pushed

**Review by t6s — APPROVED** [review]
